US07087626B2
5-Pyridin-2-yl-4-quinolin-4-yl-2H-pyrazol-3-ol
To a solution of (1-pyridin-2-yl-2-quinolin-4-yl-ethylidene)-hydrazine (2.0 g, 7.6 mmol) in pyridine (20 mL) at 0° C. is added ethyl chloroformate (2 mL) dropwise. The mixture is warmed to room temperature and stirred for 2 h. The solution is refluxed for 12 h and concentrated in vacuo. The residue is treated with dichloromethane/methanol and the precipitate collected by vacuum filtration. The precipitate is triturated with ethanol to yield the title compound, 300 mg (13%), as a white solid.

reactant | (1-pyridin-2-yl-2-quinolin-4-yl-ethylidene)-hydrazine | 7.6 mmol, 2.0 g | N1=C(C=CC=C1)C(CC1=CC=NC2=CC=CC=C12)=NN | C16H14N4
reactant | ethyl chloroformate | 2 mL | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 5-Pyridin-2-yl-4-quinolin-4-yl-2H-pyrazol-3-ol | N1=C(C=CC=C1)C=1C(=C(NN1)O)C1=CC=NC2=CC=CC=C12 | C17H12N4O
